US04145432
To a solution of diethyl 2-methyl-4-(2-trifluoromethylphenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (5.2 g) in acetone (5 ml) was added 6N-hydrochloric acid (5 ml) and stirred at room temperature for about 1.5 hours. After removal of the acetone, water was added to the residue and the resultant aqueous solution was extracted with ethyl acetate twice. The extract was washed with water and dried and the solvent was removed therefrom to give a reddish oil (4.2 g) of diethyl 2-methyl-4-(2-trifluoromethylphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | diethyl 2-methyl-4-(2-trifluoromethylphenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 5.2 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)C(OCC)OCC | C24H30F3NO6
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | diethyl 2-methyl-4-(2-trifluoromethylphenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 4.2 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)C=O | C20H20F3NO5
